US07247734B2
Synthesis of 4-Chloro-6-[4-(3′-ethoxy-biphenyl-4-yl)-1H-pyrazol-3-yl]-benzene-1,3-diol
This compounds was synthesised in the same manner as described above. 6-Chloro-3-(3′-ethoxy-biphenyl-4-yl)-7-hydroxy-chromen-4-on (0.2 g, 0.69 mmol), hydrazine hydrate (5 ml), ethanol (10 ml). The quenched solution was extracted into ethyl acetate, washed (water), dried (MgSO4), and the solvent removed under vacuum to give an oil.

reactant | 6-Chloro-3-(3′-ethoxy-biphenyl-4-yl)-7-hydroxy-chromen-4-on | 0.69 mmol, 0.2 g | ClC=1C=C2C(C(=COC2=CC1O)C1=CC=C(C=C1)C1=CC(=CC=C1)OCC)=O | C23H17ClO4
reactant | hydrazine hydrate | 5 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-Chloro-6-[4-(3′-ethoxy-biphenyl-4-yl)-1H-pyrazol-3-yl]-benzene-1,3-diol | ClC1=C(C=C(C(=C1)C1=NNC=C1C1=CC=C(C=C1)C1=CC(=CC=C1)OCC)O)O | C23H19ClN2O3
